US08003787B2
Intermediate 6: Preparation of (6-bromoquinolin-4-yl)-[3-(tert-butyl-dimethylsilanyloxy)phenyl]amine
6.26 g (25.8 mmol) of 6-bromo-4-chloroquinoline are reacted by method A with 7.5 g (33.6 mmol) of 3-(tert-butyldimethylsilanyloxy)phenylamine. 8.9 g (20.7 mmol, 80%) of the desired product are obtained.

reactant | 6-bromo-4-chloroquinoline | 25.8 mmol, 6.26 g | BrC=1C=C2C(=CC=NC2=CC1)Cl | C9H5BrClN
reactant | 3-(tert-butyldimethylsilanyloxy)phenylamine | 33.6 mmol, 7.5 g | [Si](C)(C)(C(C)(C)C)OC=1C=C(C=CC1)N | C12H21NOSi
product | (6-bromoquinolin-4-yl)-[3-(tert-butyl-dimethylsilanyloxy)phenyl]amine | 20.7 mmol, 8.9 g, 80% | BrC=1C=C2C(=CC=NC2=CC1)NC1=CC(=CC=C1)O[Si](C)(C)C(C)(C)C | C21H25BrN2OSi
